US09259470B2
(R)-1-(3-(tert-Butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)propyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (0.056 g, 0.098 mmol) was dissolved in chloroform (1 mL), and 4M HCl in dioxane was added. After agitating for 30 minutes, the mixture was evaporated and dried in vacuo to give (R)-1-(1-(4-chloro-3-fluorophenyl)-3-hydroxypropyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (0.045 g, 0.098 mmol, quantitative yield) as a solid. 1H NMR (400 MHz, CDCl3) δ 9.22 (d, J=5.0 Hz, 1H), 8.37 (d, J=5.0 Hz, 1H), 7.42 (t, J=5.0 Hz, 1H), 7.36 (s, 1H), 7.28-7.10 (m, 4H), 6.77 (d, J=5.0 Hz, 1H), 6.45 (m, 1H), 4.25 (br s, 1H), 4.20-4.00 (m, 2H), 3.80-3.42 (m, 9H), 2.55 (m, 1H), 2.20 (m, 1H), 2.02 (m, 2H), 1.82 (m, 2H); m/z (APCI-pos) M+1=459.0.

reactant | (R)-1-(3-(tert-Butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)propyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.098 mmol, 0.056 g | [Si](C)(C)(C(C)(C)C)OCC[C@H](C1=CC(=C(C=C1)Cl)F)N1C(C=C(C=C1)C1=NC(=NC=C1)NC1CCOCC1)=O | C29H38ClFN4O3Si
reactant | HCl | 4M | Cl | ClH
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (R)-1-(1-(4-chloro-3-fluorophenyl)-3-hydroxypropyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.098 mmol, 0.045 g, quantitative yield | ClC1=C(C=C(C=C1)[C@@H](CCO)N1C(C=C(C=C1)C1=NC(=NC=C1)NC1CCOCC1)=O)F | C23H24ClFN4O3
